US07235574B2
ii) 4-(4-[1,2,3]Triazol-1-yl-but-1-enyl)-phenol
A mixture of 3.00 g (24.4 mmol) 1-but-3-enyl-1H-[1,2,3]triazole, 6.79 g (20.3 mmol) tert-Butyl-(4-iodo-phenoxy)-dimethyl-silane, 1.07 g (4.06 mmol) triphenylphosphine, 0.685 g (3.05 mmol) palladium(II)acetate and 56 ml triethylamine was heated to reflux for 24 h. The reaction mixture was cooled to r.t., evaporated, stirred with ice and adjusted to pH=1 by addition of conc. HCl. The organic material was collected with ethyl acetate/dichloromethane 1:2, the organic phase dried over sodium sulfate and evaporated. The residue was stirred with X ml 1M solution of tetrabutylammonium fluoride solution in THF at 28° C. for 3 h. After removal of THF, the residue was dissolved in dichloromethane, washed with water, evaporated and purified by chromatography on silica gel (ethyl acetate/n-heptane 5:1). The product containing fractions were collected, evaporated and stirred with little ethyl acetate/n-heptane 3:1 to yield 1.53 g (29%).

reactant | 1-but-3-enyl-1H-[1,2,3]triazole | 24.4 mmol, 3.00 g | C(CC=C)N1N=NC=C1 | C6H9N3
reactant | tert-Butyl-(4-iodo-phenoxy)-dimethyl-silane | 20.3 mmol, 6.79 g | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)I | C12H19IOSi
reactant | triphenylphosphine | 4.06 mmol, 1.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium(II)acetate | 3.05 mmol, 0.685 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 56 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-[1,2,3]Triazol-1-yl-but-1-enyl)-phenol | N1(N=NC=C1)CCC=CC1=CC=C(C=C1)O | C12H13N3O
